US09388161B2
A 250-mL round-bottom flask was charged with (2S)-6-bromo-1-cyclopropanecarbonyl-2-methyl-1,2,3,4-tetrahydroquinolin-5-ol (2.00 g, 6.45 mmol), bromocyclobutane (1.81 mL, 2.60 g, 19.3 mmol), cesium carbonate (6.3 g, 19.34 mmol) and acetonitrile (100 mL). The resulting mixture was stirred for 6 h at 80° C. The reaction mixture was filtered through a pad of Celite and concentrated under vacuum. The residue was purified via column chromatography on silica gel (gradient elution with 0-10% ethyl acetate-petroleum ether) to afford (2S)-6-bromo-5-cyclobutoxy-1-cyclopropanecarbonyl-2-methyl-1,2,3,4-tetrahydroquinoline (2.00 g, 85%) as a colorless oil. MS (ES, m/z): 364, 366 [M+H]+

reactant | (2S)-6-bromo-1-cyclopropanecarbonyl-2-methyl-1,2,3,4-tetrahydroquinolin-5-ol | 6.45 mmol, 2.00 g | BrC1=C(C=2CC[C@@H](N(C2C=C1)C(=O)C1CC1)C)O | C14H16BrNO2
reactant | bromocyclobutane | 19.3 mmol, 1.81 mL, 2.60 g | BrC1CCC1 | C4H7Br
reactant | cesium carbonate | 19.34 mmol, 6.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (2S)-6-bromo-5-cyclobutoxy-1-cyclopropanecarbonyl-2-methyl-1,2,3,4-tetrahydroquinoline | 2.00 g, 85% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)C1CC1)C)OC1CCC1 | C18H22BrNO2
